2108-06-30 07:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2108-6-29**] 06:01 PM
 MAGNETIC RESONANCE IMAGING - At [**2108-6-29**] 10:30 PM
   Brain
   Hct 23.3
17.3 2 U PRBC given
   500 cc NS bolus BP 93/44
 116/53
   500 cc NS bolus BP 98/45
102/49
   Allergies:
   Penicillins
   Hives; Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2108-6-29**] 08:00 PM
   Aztreonam - [**2108-6-30**] 04:21 AM
   Metronidazole - [**2108-6-30**] 06:03 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2108-6-29**] 08:00 PM
   Other medications:
   Changes to medical and family history: daughter unsure of rxn to [**Name (NI) 911**];
   reports that patient
s father had anaphylaxis to [**Name (NI) 911**]
   Review of systems is unchanged from admission except as noted below
   Review of systems: Crampy abd pain has improved with BM; no CP, SOB,
   N/V/D
   Flowsheet Data as of  [**2108-6-30**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.9
C (96.6
   HR: 103 (97 - 115) bpm
   BP: 92/38(51) {91/38(51) - 116/95(100)} mmHg
   RR: 16 (15 - 23) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
             Total In:
                                                                    680 mL
                                                                  1,194 mL
   PO:
             TF:
   IVF:
                                                                    600 mL
                                                                  1,124 mL
   Blood products:
   Total out:
                                                                    279 mL
                                                                    207 mL
   Urine:
                                                                    179 mL
                                                                    207 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    401 mL
                                                                    987 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula 2 L
   SpO2: 100%
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   42 K/uL
   5.6 g/dL
   90 mg/dL
   0.3 mg/dL
   23 mEq/L
   3.5 mEq/L
   18 mg/dL
   108 mEq/L
   136 mEq/L
   17.3 %
   2.7 K/uL
        [image002.jpg]
                             [**2108-6-30**]  03:56 AM
   WBC
   2.7
   Hct
   17.3
   Plt
   42
   Cr
   0.3
   Glucose
   90
   Other labs: PT / PTT / INR:13.9/28.0/1.2, Ca++:7.1 mg/dL, Mg++:1.8
   mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   61 yo F w/ hodgkin's s/p autosct, ITP, now with altered mental status,
   syncopal episode and transient hypoxia.
   .
   # Respiratory Distress: the patient is an extremely high aspiration
   risk given ?vocal cord paralysis and recent dysphagia. Was in the [**Hospital Unit Name 1**]
   1 week ago for a similar hypoxic episode, thought to be secondary to
   aspiration at that time. The patient has since developed bibasilar
   infiltrates on CXR and on exam, had no breath sounds at the left base.
   She has been on very broad spectrum antibiotics for this.
   Currently, the differential diagnosis of the hypoxia witnessed during
   today's syncopal event includes a new aspiration pneumonitis (likely
   given hx and secretions) in the setting of an already brewing pna in
   the LLL, PE (possible since only on boots s/p brain surgery, however no
   other changes and has radiographic findings that support infectious
   etiology), acute coronary syndrome (but EKG unchanged and negative set
   of cardiac enzymes).
   - will treat for asp pneumonitis with supportive care, suctioning, O2
   etc. Satting very well on minimal supplemental O2 right now.
   - continue flagyl and vanco for now to also cover potential
   intracranial infection, would prefer cefepime instead of aztreonam for
   postoperative neurosurgical infection, but patient is pen allergic.
   - repeat sputum cx and assess interval change on CXR
   - although PE is quite possible, there continues to be no evidence of
   RH strain on EKG, and there is no appreciable difference in her
   tachycardia as this has been ongoing.  Will treat other etiologies and
   consider CTA in am if remains hypoxic.
   - continue nebs as per previous
   .
   # Hypotension: patient was transiently hypotensive to the 80's during
   this syncopal episode, she has not been taking good PO's in last 24
   hours or so, secondary to nausea. Her pressure rebounded quickly with
   minimal fluids and has remained stable. Could be infection, but patient
   is afebrile and is otherwise not appearing bacteremic.
   - continue to monitor.
   - small boluses as required given history of systolic and diastolic
   dysfunction, albeit mild.
   .
   # Altered Mental Status: the patient was thought to have CNS lymphoma
   vs. paraneoplastic syndrome vs. PML explaining her difficulty with
   vocal cord paralysis, and proximal weakness, although the biopsy is
   still pending, the findings so far are inconsistent with lymphoma or
   PML. Currently, in the setting of today's syncopal episode, a stat head
   CT showed new edema surrounding the site of biopsy. This is concerning
   for infection. Neurosurgery is on board.  Cultures, EBV PCR, and [**Male First Name (un) 561**]
   Virus PCR from CSF were all negative. HSV PCR was negative.
   - MRI with gad to further evaluate edema
   - continue antibiotics but ?coverage for intraparenchymal brain abscess
   that covers anaerobes
   - holding on steroids per neurosurg for now
   - q2h neuro checks
   - f/u brain bx results
   - f/u pending studies
   .
   # Tachycardia: baseline HR appears to be 100-110 for last several
   days.  Sinus tachy on EKG.  [**Month (only) 51**] be in setting of hypoxia and anxiety.
   Also consider PE as above.  Tachycardia may also be worsening her
   diastolic dysfunction leading to increased pulm congestion.
   - continue metop [**Hospital1 **] as scheduled.
   .
   # Cards Pump: Echo showed decreased EF with systolic dysfunction and
   diastolic dysfunction. No evidence of volume overload on exam, on
   contrary, likely there is some hypovolemia given syncope and transient
   hypotension.
   - rate control with metoprolol
   .
   # Cards vascular: no known hx CAD.  Monitor on telemetry.
   - BB
   - hold on ASA for now.
   .
   # Coagulopathy: had been receiving IV Vitamin K and now INR has
   normalized.  Coagulopathy thought [**1-7**] liver involvement of cancer
   - trend daily
   .
   # Recent seizure/neuro: continue keppra 1500 [**Hospital1 **].  no evidence of
   seizure activity on exam.
   .
   # Lymphoma: defer to heme/onc for further management, ?chemo
   - continue antifungal
   .
   # anemia: has been in mid-20s. Goal HCT is >21.
   - note: needs irradiated blood [**1-7**] to SCT
   .
   # h/o ITP: s/p splenectomy and rituxan. on outpt. prednisone taper but
   this has been stopped
   - trend plts, currently 59
   .
   # hypothyroidism: cont synthroid
   .
   # PPX: boots, ppi, bowel regimen
   .
   # FEN: NPO. will hold tube feeds and IVF overnight.
   .
   # full code, confirmed
   .
   # Contact: [**Name (NI) 107**] (husband) HCP [**Telephone/Fax (1) 923**] or [**Doctor First Name 924**] (daughter and [**Name2 (NI) **]
   HCP) [**Telephone/Fax (1) 925**].  consent in chart.
   .
   # access: midline. PIV.
   .
   # Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2108-6-29**] 06:01 PM
   PICC Line - [**2108-6-29**] 06:01 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2108-06-30 20:23:00 Physician Attending Progress Note
Chief Complaint: Hypoxemia; Syncope
   HPI:
   24 Hour Events:
 PICC LINE - START [**2108-6-29**] 06:01 PM
 MAGNETIC RESONANCE IMAGING - At [**2108-6-29**] 10:30 PM
   brain
   Improved respiratory status, now with reduced FiO2 requirement,
   tolerating nasal cannula with SaO2 >95%.
   Episode of hypotension responded to iv fluid bolus.
   Hct= 17 --> transfused 2 U PRBC
   Voice stronger.
   No evidence for seizures.
   History obtained from Patient, Family / [**Hospital 75**] Medical records
   Allergies:
   Penicillins
   Hives; Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2108-6-30**] 10:15 AM
   Aztreonam - [**2108-6-30**] 12:00 PM
   Metronidazole - [**2108-6-30**] 02:00 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2108-6-30**] 07:45 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG
   tube, hoarseness (chronic)
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2108-6-30**] 08:23 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.2
C (97.2
   HR: 108 (94 - 108) bpm
   BP: 126/65(80) {83/38(51) - 136/95(100)} mmHg
   RR: 26 (15 - 26) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
           Total In:
                                                                    680 mL
                                                                  2,353 mL
   PO:
           TF:
   IVF:
                                                                    600 mL
                                                                  1,502 mL
   Blood products:
   662 mL
   Total out:
                                                                    279 mL
                                                                    792 mL
   Urine:
                                                                    179 mL
                                                                    792 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    401 mL
                                                                  1,561 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///23/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic,
   Frail
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: No(t) Normocephalic, No(t) Endotracheal tube,
   No(t) NG tube, No(t) OG tube, Surgical scar on hairline
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: No(t) Resonant : , No(t) Hyperresonant: , No(t) Dullness :
   ), (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, PEG tube
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): person, place, time, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   5.6 g/dL
   42 K/uL
   90 mg/dL
   0.3 mg/dL
   23 mEq/L
   3.5 mEq/L
   18 mg/dL
   108 mEq/L
   136 mEq/L
   25.6 %
   2.7 K/uL
        [image002.jpg]
                             [**2108-6-30**]  03:56 AM
                             [**2108-6-30**]  04:51 PM
   WBC
   2.7
   Hct
   17.3
   25.6
   Plt
   42
   Cr
   0.3
   Glucose
   90
   Other labs: PT / PTT / INR:13.9/28.0/1.2, Differential-Neuts:96.0 %,
   Band:1.0 %, Lymph:3.0 %, Mono:0.0 %, Eos:0.0 %, Ca++:7.1 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   Aspiration pneumonia; brain edema/lesion in frontal lobe.
   HYPOXEMIA -- Attributed to pneumonia, aspiration.  Improving.  Monitor
   SaO2, maintain > 90%.
   PNEUMONIA -- aspiration in patient with aspiration risk (vocal cord
   paralysis).  Antimicrobials.
   HYPOTENSION -- hypovolemia;  responded to iv fluids.  Improved.
   Seizures -- no recurrence.  Likely due to brain biopsy site.  Continue
   Cepra.
   BRAIN LESION -- evidence for edema vs. resolving blood vs. infection.
   Neurosurgery to reasses.
   HODGKIN"S LYMPHOMA -- recurrent.  s/p chemotherapy [**2108-6-28**].  monitor
   CBC.
   FUNGAL LINE INFECTION -- continue Fluconazole.
   NUTRIONTAL -- TF via PEG
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2108-6-29**] 06:01 PM
   PICC Line - [**2108-6-29**] 06:01 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP:
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 55 minutes

2108-07-02 07:53:00 Physician Resident Progress Note
Chief Complaint: hypoxia/AMS
   61 y/o F h/o HL s/p SCT, ITP s/p splenectomy, a/w transient hypoTN and
   hypoxia in the setting of a syncopal episode
   24 Hour Events:
 CALLED OUT
   CT head without contrast done for MS change; prelim read - no interval
   change
   Per nursing pt appeared more confused/ still seeing family members who
   are not present overnight.
   Pt is alert this morning, oriented to person and location; but believes
   it is [**2108-5-6**]. She is still feeling confused, believes that there are
   family members outside although they are not.
   C/o nausea and lower abdominal pain x2 days. Per nursing, pt had been
   constipated in the past requiring disimpaction x 2 2 days ago but is on
   lactulose now and having soft BMs, most recently yesterday.
   Allergies:
   Penicillins
   Hives; Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2108-7-1**] 07:38 PM
   Aztreonam - [**2108-7-2**] 03:54 AM
   Metronidazole - [**2108-7-2**] 05:48 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2108-7-1**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2108-7-2**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 35.7
C (96.3
   HR: 105 (87 - 109) bpm
   BP: 103/58(68) {100/53(64) - 152/83(100)} mmHg
   RR: 27 (16 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  1,322 mL
                                                                    422 mL
   PO:
             TF:
                                                                     50 mL
                                                                    114 mL
   IVF:
                                                                    790 mL
                                                                    127 mL
   Blood products:
                                                                    232 mL
   Total out:
                                                                  1,660 mL
                                                                  1,240 mL
   Urine:
                                                                  1,660 mL
                                                                  1,240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -338 mL
                                                                   -819 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///22/
   Physical Examination
   Labs / Radiology
   51 K/uL
   8.8 g/dL
   97 mg/dL
   0.3 mg/dL
   22 mEq/L
   3.1 mEq/L
   9 mg/dL
   108 mEq/L
   138 mEq/L
   26.0 %
   2.1 K/uL
        [image002.jpg]
                             [**2108-6-30**]  03:56 AM
                             [**2108-6-30**]  04:51 PM
                             [**2108-7-1**]  04:31 AM
                             [**2108-7-1**]  11:37 AM
                             [**2108-7-2**]  04:42 AM
   WBC
   2.7
   1.1
   2.1
   Hct
   17.3
   25.6
   25.0
   26.0
   Plt
   42
   31
   29
   84
   51
   Cr
   0.3
   0.4
   0.3
   Glucose
   90
   92
   97
   Other labs: PT / PTT / INR:15.5/29.0/1.4, Differential-Neuts:94.0 %,
   Band:0.0 %, Lymph:4.0 %, Mono:2.0 %, Eos:0.0 %, Ca++:7.6 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.9 mg/dL
   Imaging: CT head without constrast [**2108-7-1**]
   Provisional Findings Impression: ARHb SUN [**2108-7-1**] 1:08 PM
   Right frontal 1.3 cm extra-axial fluid collection with no significant
   change
   compared to MRI from two days prior. Edema at biopsy site again noted.
   No
   evidence for new interval intracranial hemorrhage.
   Assessment and Plan
   61 y/o F h/o HL s/p SCT, ITP s/p splenectomy, a/w transient hypotension
   and hypoxia in the setting of a syncopal episode.
   # Hypoxia
 patient
s hypoxia has now resolved, O2 sats good on ra.
   likely [**1-7**] aspiration PNA given imaging findings, h/o recurrent
   episodes of aspiration, and clinical improvement on ABX; other
   considerations incl. PCP, [**Name10 (NameIs) 975**] pulmonary edema (but appears
   volume down), PE as pt high risk due to malignancy (although pt likely
   not a candidate for systemic AC, may benefit from IVC filter), and ACS
   (but EKG unchanged and negative set of cardiac enzymes)  --
   - vanco/flagyl/aztreonam (PCN allergy) were begun for prophylactic
   therapy of possible infection s/p brain biopsy. However as there
s no
   longer concern for brain abscess will consider d/cing them and
   switching to Levoquin tomorrow AM for PNA.
   -BCx from [**6-27**] no growth to date
   -combivent nebs PRN
   #MS changes/Frontal lobe edema s/p biopsy [**6-16**]
 c/f infectious focus;
   patient does not have any focal neurologic findings, repeat CT scan
   planned for tomorrow, will obtain today to r/o worsening of subacute
   bleed in the setting of low platelets.  Patient
   hallucinations/delerium most  likely due to medictations, disorienting
   nature of ICU.  This am, Pt doing about the same as yesterday in terms
   of neuro status.
   -Re-consult Neuro for mental status change, per BMT
   -will space out neuro checks to q6 hrs
   -cont keppra for seizure ppx
   -correct anemia, thrombocytopenia
   -plan per neurosurg; steroids deferred at this time (Neuro medicine
   concurs). Will reassess if pt showing signs/symptoms of midline shift,
   or increased cranial pressure.
   # H/o persistent tachycardia of unknown etiology
   - on Lopressor 12.5 mg [**Hospital1 7**], but if any signs of PE (tachycardia,
   hypoxia, tachypnea) will consider CTA for r/o PE. Pt is at risk for PE
   given malignancy, but not a candidate for anticoagulation.
   # H/o syncope
 likely vasovagal episode given transient
   fluid-responsive HoTN to SBP 80 and recent poor PO intake; low
   likelihood for cardiogenic syncope
   -correct volume depletion with gentle hydration, blood x-fusion
   -monitor on tele
   # Lymphoma s/p chemo
 c/b pancytopenia
   -plan per BMT team
   -x-fuse to maintain Hct > 21%, plts > 10K
   -cont. antifungal therapy
   # Hypothyroidism: cont synthroid
   # PPX: venodynes, PPI, bowel regimen
   # F/E/N
   -on TF via PEG. Tolerating well.
   -replete lytes PRN
 on K & Mg sliding scale.
   # Contact: [**Name (NI) 107**] (husband) HCP [**Telephone/Fax (1) 923**] or [**Doctor First Name 924**] (daughter and [**Name2 (NI) **]
   HCP) [**Telephone/Fax (1) 925**].  consent in chart.
   # Dispo
 to floor today unless pt becomes unstable.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2108-7-1**] 07:00 PM 20 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2108-6-29**] 06:01 PM
   22 Gauge - [**2108-7-1**] 06:09 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2108-07-02 12:13:00 Physician Attending Progress Note
Chief Complaint: change in mental status; hypoxia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   61F with Hodgekin's Lymphoma, initially admitted for aspiration pna,
   prolonged hispital course, presents back from the floor to the ICU with
   syncopal episode with hypotension and hypoxia, likely vasovagal:
   24 Hour Events:
   -persistent visual hallucinations
   -head ct without sig change; no evidence of abscess
   -no more syncope
   Patient is not upset by the hallucinations
 i.e., they are not
   threatening or scary to her. Most have been apparent sightings of
   friends or family.
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Penicillins
   Hives; Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2108-7-1**] 07:38 PM
   Metronidazole - [**2108-7-2**] 05:48 AM
   Aztreonam - [**2108-7-2**] 08:00 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2108-7-2**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, No(t) Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2108-7-2**] 12:12 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 90 (87 - 108) bpm
   BP: 84/50(58) {84/49(57) - 152/83(100)} mmHg
   RR: 17 (16 - 27) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
             Total In:
                                                                  1,322 mL
                                                                  1,265 mL
   PO:
             TF:
                                                                     50 mL
                                                                    236 mL
   IVF:
                                                                    790 mL
                                                                    719 mL
   Blood products:
                                                                    232 mL
   Total out:
                                                                  1,660 mL
                                                                  1,475 mL
   Urine:
                                                                  1,660 mL
                                                                  1,475 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -338 mL
                                                                   -210 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///22/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), (Murmur: Systolic) III/VI midsystolic murmur heard
   throughout the precordium and radiating to the neck.
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: No(t) Clear : , Crackles : bases)
   Extremities: Right: Absent, Left: Absent
 Bilateral midzone rales.
   I/E=-[**12-6**]
   Skin:  Warm and well perfused.
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.8 g/dL
   51 K/uL
   97 mg/dL
   0.3 mg/dL
   22 mEq/L
   3.1 mEq/L
   9 mg/dL
   108 mEq/L
   138 mEq/L
   26.0 %
   2.1 K/uL
        [image002.jpg]
                             [**2108-6-30**]  03:56 AM
                             [**2108-6-30**]  04:51 PM
                             [**2108-7-1**]  04:31 AM
                             [**2108-7-1**]  11:37 AM
                             [**2108-7-2**]  04:42 AM
   WBC
   2.7
   1.1
   2.1
   Hct
   17.3
   25.6
   25.0
   26.0
   Plt
   42
   31
   29
   84
   51
   Cr
   0.3
   0.4
   0.3
   Glucose
   90
   92
   97
   Other labs: PT / PTT / INR:15.5/29.0/1.4, Differential-Neuts:94.0 %,
   Band:0.0 %, Lymph:4.0 %, Mono:2.0 %, Eos:0.0 %, Ca++:7.6 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   Problems:
   1)       syncope
   2)       Pneumonia-aspiration
   .
   Confusion/Delerium/Hollucinations
 No metabolic abnormalities now.
   Unclear relationship of this finding to her recent bx. Patient denies
   abnormal aromas/smells that might indicate temporal lobe seizures.
   Consider an EEG.
   Continues on antibiotics for presumed aspiration pneumonia. Oxygenation
   excellent without supplemental oxygen.
   Hodgkin's Lymphoma -- recurrent.  CHemotherapy.
   Nutritional support -- Resume TF via PEG.
   Pancytopenia -- attributed to ChemoRx.  Recommendations per Heme/Onc
   team.
   Syncope -- no further episodes.  Attributed to hypvolemia +/- vasovagal
   episode.
   -
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2108-7-1**] 07:00 PM 30 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2108-6-29**] 06:01 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes